US04820331
0.1 g of sodium borohydride was added to 2.0 g of 2-butyryl-5-formyl-3-hydroxycyclohex-2-en-1-one in 30 ml of aqueous tetrahydrofuran; the mixture was stirred for 2 hours at 25° C. The mixture was then diluted with water, extracted several times with diethyl ether, dried and concentrated. There was obtained 1.5 g of 2-butyryl-3-hydroxy-5-hydroxymethylcyclohex-2-en-1-one (compound no. 3).

reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | 2-butyryl-5-formyl-3-hydroxycyclohex-2-en-1-one | 2.0 g | C(CCC)(=O)C=1C(CC(CC1O)C=O)=O | C11H14O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-butyryl-3-hydroxy-5-hydroxymethylcyclohex-2-en-1-one | 1.5 g | C(CCC)(=O)C=1C(CC(CC1O)CO)=O | C11H16O4
